US04028396
Preparation of 2-(7-carbethoxy-6-thiaheptyl)-2-cyclopentenone
A mixture of 74 g. (0.306 mols) of 2-(7-carboxy-6-thiaheptyl)-2-cyclopentenone, 1200 ml. of ethanol and 1 g. p-toluenesulfonic acid is stirred and refluxed for 18 hours. The resulting solution is concentrated and the residue is dissolved in ether. The organic phase is washed with water, sodium bicarbonate solution and saline, dried (MgSO4) and evaporated. The residue is distilled to give a light yellow oil, b.p. 147°-150° C. (0.07 Torr).

reactant | 2-(7-carboxy-6-thiaheptyl)-2-cyclopentenone | 0.306 mols | C(=O)(O)CSCCCCCC=1C(CCC1)=O | C12H18O3S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 2-(7-carbethoxy-6-thiaheptyl)-2-cyclopentenone | C(=O)(OCC)CSCCCCCC=1C(CCC1)=O | C14H22O3S
